US04629787
1-(1-Carboxyethyl)-3-(S)-[(1-carboxy-3-phenylpropyl)amino]-perhydroazepin-2-one
Dissolve 422 mg of 3-(S)-amino-1-(1-carboxyethyl)perhydroazepin-2-one hydrochloride in water and adjust the pH to 6.8 with 2M tetrabutylammonium hydroxide. Lyophilize the solution and dissolve the residue in 10 ml absolute ethanol. Add 1.98 g ethyl 2-oxo-4-phenylbutyrate and 7 g. powdered 4A molecular sieves. Add a solution of 357 mg. sodium cyanoborohydride in 3 ml absolute ethanol at a rate of 0.5 ml/hour. After the addition is complete, stir the reaction mixture overnight at room temperature. Filter the reaction mixture, wash the filter cake with ethanol and concentrate the combined filtrate and washings at aspirator pressure. Dissolve the residue in water and add 20 ml ether and 20 ml Dowex 50 (H+). Stir the mixture for 1 hour then draw off the ether layer.

reactant | 3-(S)-amino-1-(1-carboxyethyl)perhydroazepin-2-one hydrochloride | 422 mg | Cl.N[C@@H]1C(N(CCCC1)C(C)C(=O)O)=O
reactant | tetrabutylammonium hydroxide | 2M | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl 2-oxo-4-phenylbutyrate | 1.98 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-(1-Carboxyethyl)-3-(S)-[(1-carboxy-3-phenylpropyl)amino]-perhydroazepin-2-one | C(=O)(O)C(C)N1C([C@H](CCCC1)NC(CCC1=CC=CC=C1)C(=O)O)=O | C19H26N2O5
